US04275076
6,6'-[Ureylenebis(m-phenylenecarbonylimino)]bis[4-hydroxy-2-naphthoic acid] diethyl ester
To a cooled (water bath) solution of 2.0 g. of 6,6'-[ureylenebis(m-phenylenecarbonylimino)]bis[4-hydroxy-2-naphthoic acid] diethyl ester diacetate in 60 ml. of dimethylformamide is added 40 ml. of 0.25 N sodium hydroxide, dropwise with stirring over 10 minutes. The solution is stirred for an additional 10 minutes, 80 ml. of pyridine is added and the solution is poured with cooling into a mixture of 800 ml. of water and 85 ml. of concentrated hydrochloric acid. The solid is collected by filtration, washed with water and dried at room temperature. This solid is dissolved in hot 2-methoxyethanol at a concentration of 4% (w/v). This solution is then distilled with 1/2 its volume of water and then cooled to room temperature. The precipitate is collected by filtration and washed with 50% aqueous 2-methoxyethanol, ethanol, then ether. This solid is dissolved in a mixture of 2-methoxyethanol:dimethylformamide (6.5:1) giving an approximate 4% (w/v) solution, diluted with water and filtered. The solid is washed as described above, then with acetone and dried at 110° C., overnight giving 417 mg. of the desired product as a tan powder, m.p. 265°-280° C. (dec.).

reactant | 6,6'-[ureylenebis(m-phenylenecarbonylimino)]bis[4-hydroxy-2-naphthoic acid] diethyl ester diacetate | C(C)(=O)O.C(C)(=O)O.C(C)OC(=O)C1=CC2=CC=C(C=C2C(=C1)O)NC(=O)C=1C=C(C=CC1)NC(NC1=CC(=CC=C1)C(=O)NC=1C=C2C(=CC(=CC2=CC1)C(=O)OCC)O)=O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | 0.25 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6,6'-[Ureylenebis(m-phenylenecarbonylimino)]bis[4-hydroxy-2-naphthoic acid] diethyl ester | C(C)OC(=O)C1=CC2=CC=C(C=C2C(=C1)O)NC(=O)C=1C=C(C=CC1)NC(NC1=CC(=CC=C1)C(=O)NC=1C=C2C(=CC(=CC2=CC1)C(=O)OCC)O)=O | C41H34N4O9
